US06403584B1
N-(N-(BOC)-3-phenylsulfonyl-nipecotyl)-4-(2′,6′-dimethoxyphenyl)-2-benzyloxyphenylalanine, tert-butyl ester (74 mg, 0.091 mmol) was treated with TFA according to procedure described in Example 1, Step C to yield N-(3-phenylsulfonyl-nipecotyl)-4-(2′,6′-dimethoxyphenyl)-2-benzyloxyphenylalanine.

reactant | N-(N-(BOC)-3-phenylsulfonyl-nipecotyl)-4-(2′,6′-dimethoxyphenyl)-2-benzyloxyphenylalanine, tert-butyl ester | 0.091 mmol, 74 mg | C(=O)(OC(C)(C)C)N1CC(C(=O)N[C@@H](CC2=C(C=C(C=C2)C2=C(C=CC=C2OC)OC)OCC2=CC=CC=C2)C(=O)OC(C)(C)C)(CCC1)S(=O)(=O)C1=CC=CC=C1 | C45H54N2O10S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(3-phenylsulfonyl-nipecotyl)-4-(2′,6′-dimethoxyphenyl)-2-benzyloxyphenylalanine | C1(=CC=CC=C1)S(=O)(=O)C1(CNCCC1)C(=O)N[C@@H](CC1=C(C=C(C=C1)C1=C(C=CC=C1OC)OC)OCC1=CC=CC=C1)C(=O)O | C36H38N2O8S
